US06475347B1
(A) 2,6-di-t-butyl-4-(1-hydroxy-3-phenylpropyl)phenol
To a 5-liter, 4-neck round-bottom flask fitted with a mechanical stirrer, reflux condenser, thermometer, and addition funnel were charged 238.5 grams (1.02 moles) of 3,5-di-t-butyl-4-hydroxybenzaldehyde and 979 grams of toluene. To this suspension, a one molar solution of phenethylmagnesium chloride in THF was slowly added such that the pot temperature slowly rose to 40° C. After the addition of several hundred milliliters of Grignard reagent solution a green sticky solid formed. The addition was halted, an additional 859 mL of toluene was added, and the solution was warmed to 80° C. The remaining Grignard reagent was slowly added while maintaining the pot temperature between 50° C. and 70° C. After the addition was complete, the reaction mixture was stirred at 70° C. for one hour. During this time, the green solids dissolved and the reaction mixture formed two liquid phases. After this time, the reaction was cooled and then quenched by slowly adding 80 mL of deionized water. The quenched reaction mixture was then poured into six liters of water. The organic phase was separated and the solvent removed in vacuo. The resulting crude product was then dissolved in warm hexane and filtered. The filtrate was washed with hexane (2×100 mL). The hexane portions were combined and solvent removed producing 242 grams (69.8 percent) of a viscous amber oil.

reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | 1.02 moles, 238.5 grams | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | toluene | 979 grams | C1(=CC=CC=C1)C | C7H8
reactant | phenethylmagnesium chloride | C(CC1=CC=CC=C1)[Mg]Cl
reactant | toluene | 859 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | six liters | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2,6-di-t-butyl-4-(1-hydroxy-3-phenylpropyl)phenol | 242 grams, 69.8 percent | C(C)(C)(C)C1=C(C(=CC(=C1)C(CCC1=CC=CC=C1)O)C(C)(C)C)O | C23H32O2
